US05280032
A mixture of 600 mg of 1-(4-benzylthiophenyl)-2-(2-chloroethoxy)ethanol, 4 ml of a 50% aqueous dimethylamine solution, 310 mg of potassium iodide and 5 ml of ethanol was refluxed for 4 hours. To the reaction mixture was further added 4 ml of a 50% aqueous dimethylamine solution The resulting mixture was refluxed for 4 hours. The reaction mixture was cooled to room temperature The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 30 ml of ethyl acetate and 30 ml of water. The resulting mixture was adjusted to pH 10.5 with potassium carbonate. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was dissolved in 15 ml of acetone. To the solution was added 0.4 ml of a 5N dry hydrogen chloride-ethanol solution. The resulting crystals were collected by filtration to obtain 590 mg of 1-(4-benzylthiophenyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride (compound No. 222).

reactant | 1-(4-benzylthiophenyl)-2-(2-chloroethoxy)ethanol | 600 mg | C(C1=CC=CC=C1)SC1=CC=C(C=C1)C(COCCCl)O | C17H19ClO2S
reactant | dimethylamine | CNC | C2H7N
reactant | potassium iodide | 310 mg | [I-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 1-(4-benzylthiophenyl)-2-[2-(N,N-dimethylamino)ethoxy]ethanol hydrochloride | 590 mg | Cl.C(C1=CC=CC=C1)SC1=CC=C(C=C1)C(COCCN(C)C)O | InChI=1S/C19H25NO2S.ClH/c1-20(2)12-13-22-14-19(21)17-8-10-18(11-9-17)23-15-16-6-4-3-5-7-16;/h3-11,19,21H,12-15H2,1-2H3;1H
